US07179624B2
Washed phaseolus aureus L (green grams) 50 g. were taken into a conical flask and allowed to soak in deionised water (400 ml) for a period of 24 hr. 4-methylacetophenone (0.500 g; 0.0037 moles) I(c) was added to the soaked phaseolus aureus L (green grams) in the above water, covered and allowed to shake for 24 hr at 15–20° C. Then the green grams were filtered off and washed with deionised water (3×100 ml). The combined filtrate was extracted with chloroform (3×500 ml). The chloroform layer was dried and the crude product obtained (340 mg). Pure 1-(4-methylphenyl-(1S)-ethan-1-ol II(c) was obtained after column chromatography with silica gel using chloroform as eluent;

reactant | 4-methylacetophenone | 0.0037 moles, 0.500 g | CC1=CC=C(C=C1)C(=O)C | C9H10O
solvent | water | O | H2O
product | 4-methylphenyl-(1S)-ethan-1-ol | CC1=CC=C(C=C1)[C@H](C)O | C9H12O
